US07208494B2
e) 6-Chloro-5-ethoxy-1H-pyrrolo[2,3-b]pyridine-2-carboxylic acid ethyl ester
A solution of 1.0 g (2.71 mmol) 6-chloro-5-ethoxy-pyrrolo[2,3-b]pyridine-1,2-dicarboxylic acid 1-tert-butyl ester 2-ethyl ester in 20 mL dichloromethane was cooled to 0° C., 10 mL (14.9 g, 0.13 mol) trifluoroacetic acid was added and then the cooling bath was removed. After 1 h the volatile components were removed and the residue was poured into 10% aqueous sodium bicarbonate solution and extracted twice with dichloromethane. The combined organic layers were washed with brine, dried over magnesium sulfate, filtered and evaporated. The resulting white solid (100%) was used without further purification.

reactant | 6-chloro-5-ethoxy-pyrrolo[2,3-b]pyridine-1,2-dicarboxylic acid 1-tert-butyl ester 2-ethyl ester | 2.71 mmol, 1.0 g | CCOC(=O)C1=CC=2C(=NC(=C(C2)OCC)Cl)N1C(=O)OC(C)(C)C | C17H21ClN2O5
reactant | trifluoroacetic acid | 0.13 mol, 10 mL, 14.9 g | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | 6-Chloro-5-ethoxy-1H-pyrrolo[2,3-b]pyridine-2-carboxylic acid ethyl ester | C(C)OC(=O)C1=CC=2C(=NC(=C(C2)OCC)Cl)N1 | C12H13ClN2O3
